### PR TITLE
[Merged by Bors] - feat(RingTheory/AlgebraicIndependent): upgrade polynomial equivalence

### PR DESCRIPTION
**Pull request by yuanyi-350**

### CODE REVIEW

File: Mathlib/RingTheory/AlgebraicIndependent/Basic.lean [hunk 1]
```diff
@@ -472,23 +470,15 @@ theorem AlgebraicIndependent.mvPolynomialOptionEquivPolynomialAdjoin_X_some
...
-    rw [hx.mvPolynomialOptionEquivPolynomialAdjoin_C, aeval_C, Polynomial.aeval_C,
-      IsScalarTower.algebraMap_apply R (adjoin R (range x)) A]
-  · rintro (⟨⟩ | ⟨i⟩)
-    · rw [hx.mvPolynomialOptionEquivPolynomialAdjoin_X_none, aeval_X, Polynomial.aeval_X,
-        Option.elim]
-    · rw [hx.mvPolynomialOptionEquivPolynomialAdjoin_X_some, Polynomial.aeval_C,
-        hx.algebraMap_aevalEquiv, aeval_X, aeval_X, Option.elim]
+    (hx : AlgebraicIndependent R x) (a : A) : ((Polynomial.aeval a).restrictScalars R).comp
+      hx.mvPolynomialOptionEquivPolynomialAdjoin.toAlgHom =
+      MvPolynomial.aeval fun o : Option ι ↦ o.elim a x := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/AlgebraicIndependent/Basic.lean:476]: A bit more readable as:
```suggestion
    (hx : AlgebraicIndependent R x) (a : A) :
    ((Polynomial.aeval a).restrictScalars R).comp
        hx.mvPolynomialOptionEquivPolynomialAdjoin.toAlgHom =
      MvPolynomial.aeval fun o : Option ι ↦ o.elim a x := by
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Comment by riccardobrasca** [comment]
There is an error, but LGTM, thanks!

bors d+
